US04414388
2-Amino-5-methylthiazole (6.85 g., 60 mmoles) and diethyl ethoxymethylenemalonate (14.3 g., 66 mmoles) were heated on a steam bath for 1 hour. The reaction mixture was cooled and the product precipitated by the addition of approximately 75 ml. of hexane. Purified 2-(2,2-dicarbethoxyethenylamino)-5-methylthiazole (14.1 g. in two crops, Rf 0.55-0.65 on silica gel thin layer chromatography with chloroform/1% ethanol as eluant) was obtained by recrystallization from hexane.

reactant | 2-Amino-5-methylthiazole | 60 mmoles, 6.85 g | NC=1SC(=CN1)C | C4H6N2S
reactant | diethyl ethoxymethylenemalonate | 66 mmoles, 14.3 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
product | 2-(2,2-dicarbethoxyethenylamino)-5-methylthiazole | 14.1 g, 1% | C(=O)(OCC)C(=CNC=1SC(=CN1)C)C(=O)OCC | C12H16N2O4S
